US04760078
5-(4-phenyl-1,3-butadienyl)-1,2-dithiol-3-thione.
In the same manner as in Example 1, a corresponding cinnamaldehyde derivative (i.e., 4-chloro-cinnamaldehyde, 4-methoxy-cinnamaldehyde, 4-dimethylamino-cinnamaldehyde, p-methyl-cinnamaldehyde, o-chloro-cinnamaldehyde or m-methyl-cinnamaldehyde) was reacted with 5-methyl-1,2-dithiol-3-thione to prepare the following compounds.

reactant | cinnamaldehyde | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | 5-methyl-1,2-dithiol-3-thione | CC1=CC(SS1)=S | C4H4S3
product | 5-(4-phenyl-1,3-butadienyl)-1,2-dithiol-3-thione | C1(=CC=CC=C1)C=CC=CC1=CC(SS1)=S | C13H10S3
